US05541195
(2R*,4S*)-2-Benzyl-1-(benzyloxycarbonyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine
67 μl (0.468 mmol) of benzyl chloroformate and 72 μl (0.515 mol) of triethylamine are added to a solution of 200 mg (0.468 mmol) of (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine in 4 ml methylene chloride at 0°, and the mixture is left to stir at this temperature for 16 hours. Then a further 34 μl (0.234 mmol) of benzyl chloroformate and 36 μl (0.257 mmol) of triethylamine are added and stirred at room temperature for 3 hours. This is followed by dilution with methylene chloride, and the organic phase is washed with brine, dried over magnesium sulfate and evaporated to dryness. The oil is chromatographed on silica gel with methylene chloride/methanol/conc. ammonia (1000:50:1). The title compound is obtained as oil. TLC: methylene chloride/methanol/conc. ammonia (700:50:1) Rf =0.61, FD-MS: M+ =561.

reactant | benzyl chloroformate | 0.468 mmol, 67 μl | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 0.515 mol, 72 μl | C(C)N(CC)CC | C6H15N
reactant | (2R*,4S*)-2-benzyl-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | 0.468 mmol, 200 mg | C(C1=CC=CC=C1)[C@H]1NCC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12 | C24H24F3N3O
reactant | benzyl chloroformate | 0.234 mmol, 34 μl | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | triethylamine | 0.257 mmol, 36 μl | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 4 ml | C(Cl)Cl | CH2Cl2
product | (2R*,4S*)-2-Benzyl-1-(benzyloxycarbonyl)-N-(4-quinolylmethyl)-N-trifluoroacetyl-4-piperidinamine | C(C1=CC=CC=C1)[C@H]1N(CC[C@@H](C1)N(C(C(F)(F)F)=O)CC1=CC=NC2=CC=CC=C12)C(=O)OCC1=CC=CC=C1 | C32H30F3N3O3
